US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R)-1-(hydroxymethyl)propyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and (R)-2-bromo-N-(1-hydroxybutan-2-yl)benzenesulfonamide. MS (ESI): mass calcd. for C20H21FN4O3S, 416.13; m/z found, 417.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.32 (m, 2H), 8.16-8.12 (m, 1H), 7.96 (m, 1H), 7.68-7.63 (m, 1H), 7.60-7.55 (m, 1H), 7.40-7.30 (m, 3H), 3.43-3.35 (m, 1H), 3.33 (d, J=5.9, 1H), 3.12-3.05 (m, 1H), 1.60-1.48 (m, 1H), 1.42-1.28 (m, 1H), 0.79 (t, J=7.4, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | (R)-2-bromo-N-(1-hydroxybutan-2-yl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@@H](CO)CC | C10H14BrNO3S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R)-1-(hydroxymethyl)propyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@H](CC)CO)F | C20H21FN4O3S
